US09340557B2
A mixture of 4-[7-(6-oxa-3-azabicyclo[3.1.1]heptan-3-yl)quinoxalin-5-yl]oxycyclohexanamine (190 mg, 0.5581 mmol), 2-fluoropyrimidine (60 mg, 0.6118 mmol) and DIEA (200 μL, 1.148 mmol) in 2-propanol (2 mL) was heated in a microwave reactor for 20 min at 150° C. The reaction mixture was concentrated, and then purified from 12 g silica gel cartridge with 0-6% MeOH/DCM to yield N-[4-[7-(6-oxa-3-azabicyclo[3.1.1]heptan-3-yl)quinoxalin-5-yl]oxycyclohexyl]pyrimidin-2-amine (120.2 mg, 48.9%) as a yellow solid. Mass+1: 419.23; Retention Time: 0.72; NMR Annotation: 1H NMR (400 MHz, Chloroform-d) δ 8.42 (d, J=1.9 Hz, 1H), 8.30 (d, J=1.9 Hz, 1H), 8.04 (d, J=4.8 Hz, 2H), 6.65-6.56 (m, 2H), 6.28 (t, J=4.8 Hz, 1H), 4.99 (d, J=8.1 Hz, 1H), 4.60 (d, J=6.5 Hz, 3H), 3.79 (dd, J=8.2, 4.0 Hz, 0H), 3.62-3.38 (m, 4H), 3.17-3.03 (m, 1H), 2.07-1.90 (m, 2H), 1.89-1.59 (m, 7H).

reactant | 4-[7-(6-oxa-3-azabicyclo[3.1.1]heptan-3-yl)quinoxalin-5-yl]oxycyclohexanamine | 0.5581 mmol, 190 mg | C12CN(CC(O1)C2)C2=CC(=C1N=CC=NC1=C2)OC2CCC(CC2)N | C19H24N4O2
reactant | 2-fluoropyrimidine | 0.6118 mmol, 60 mg | FC1=NC=CC=N1 | C4H3FN2
reactant | DIEA | 1.148 mmol, 200 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | 2-propanol | 2 mL | CC(C)O | C3H8O
product | N-[4-[7-(6-oxa-3-azabicyclo[3.1.1]heptan-3-yl)quinoxalin-5-yl]oxycyclohexyl]pyrimidin-2-amine | 120.2 mg, 48.9% | C12CN(CC(O1)C2)C2=CC(=C1N=CC=NC1=C2)OC2CCC(CC2)NC2=NC=CC=N2 | C23H26N6O2
